US05856326
Step D: 5(S)-Butyl-4-[1-(4-cyanobenzyl)-2-methyl-5-imidazolylmethyl]-1-(2,3-dimethylphenyl)piperazin-2-one dihydrochloride
Sodium triacetoxyborohydride (0.265 g, 1.25 mmol) was added to a solution of 1-(4-cyanobenzyl)-2-methylimidazole-5-carboxaldehyde (0.190 g, 0.843 mmol), 5(S)-butyl-1-(2,3-dimethylphenyl)piperazin-2-one hydrochloride (0.250 g, 0.843 mmol), N-methylmorpholine (0.093 mL, 0.843 mmol) in dichloroethane (10 mL), according to the procedure described in Example 39, Step E. The title compound was purified by preparative HPLC using a gradient of 70 to 45% Solvent A. The free base was isolated and converted to dihydrochloride salt. The title compound was obtained as a white solid. FAB ms: 470 (M+1). Anal. Calc for C29H35N5O.2 HCl.1.45 H2O, C, 61.25; H, 7.07; N, 12.32. Found: C, 61.56; H, 6.99; N, 11.32.

reactant | Sodium triacetoxyborohydride | 1.25 mmol, 0.265 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-(4-cyanobenzyl)-2-methylimidazole-5-carboxaldehyde | 0.843 mmol, 0.190 g | C(#N)C1=CC=C(CN2C(=NC=C2C=O)C)C=C1 | C13H11N3O
reactant | 5(S)-butyl-1-(2,3-dimethylphenyl)piperazin-2-one hydrochloride | 0.843 mmol, 0.250 g | Cl.C(CCC)[C@@H]1NCC(N(C1)C1=C(C(=CC=C1)C)C)=O
reactant | N-methylmorpholine | 0.843 mmol, 0.093 mL | CN1CCOCC1 | C5H11NO
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 5(S)-Butyl-4-[1-(4-cyanobenzyl)-2-methyl-5-imidazolylmethyl]-1-(2,3-dimethylphenyl)piperazin-2-one dihydrochloride | Cl.Cl.C(CCC)[C@@H]1N(CC(N(C1)C1=C(C(=CC=C1)C)C)=O)CC1=CN=C(N1CC1=CC=C(C=C1)C#N)C | InChI=1S/C29H35N5O.2ClH/c1-5-6-9-26-19-34(28-10-7-8-21(2)22(28)3)29(35)20-32(26)18-27-16-31-23(4)33(27)17-25-13-11-24(15-30)12-14-25;;/h7-8,10-14,16,26H,5-6,9,17-20H2,1-4H3;2*1H/t26-;;/m0../s1
